US06455507B1
d) (±)-(1R*,2S*,3R*)-3-(2-Bromo-5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclohexanediol
(±)-(1R*,2S*,3R*)-3-(2-Bromo-5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclohexanediyl diacetate (part c of this example, 700 mg, 1.51 mmol) was dissolved in ethanol (12 ml)-methanol (12 ml)-water (3 ml). Sodium carbonate (160 mg, 1.5 mmol) was added and the mixture was stirred vigorously for 3 h. Volatiles were evaporated in vacuo and the residual solids were slurried in water. The solid was recrystallized from ethanol to give title compound as white powder (260 mg, 45%), m.p. 197-199° C. dec.; 1H-NMR (DMSO-d6, 200 MHz) δ: 8.26 and 7.92 (both s, each 1, 2 aromatic CH), 4.8-4.6 (m, 3, OCH and 2OH), 4.264.20 (m, 1, NCH), 4.17-3.98 (m, 1, OCH), 2.24-2.19 (m, 1, 1/2 CH2), 1.84-1.74 (m, 4, 2 CH2), 1.60-1.53 (m, 4, 1, 1/2 CH2).

reactant | (±)-(1R*,2S*,3R*)-3-(2-Bromo-5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclohexanediyl diacetate | C(C)(=O)O[C@H]1[C@H]([C@@H](CCC1)N1C(=NC2=C1C=C(C(=C2)Cl)Cl)Br)OC(C)=O | C17H17BrCl2N2O4
reactant | methanol | 12 ml | CO | CH4O
reactant | water | 3 ml | O | H2O
reactant | Sodium carbonate | 1.5 mmol, 160 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | (±)-(1R*,2S*,3R*)-3-(2-Bromo-5,6-dichloro-1H-benzimidazol-1-yl)-1,2-cyclohexanediol | 260 mg, 45% | BrC1=NC2=C(N1[C@H]1[C@@H]([C@@H](CCC1)O)O)C=C(C(=C2)Cl)Cl | C13H13BrCl2N2O2
